data/mechanism_extracts/JACS/10.1021_jacs.3c06794_sup_1.json
{"doi": "10.1021_jacs.3c06794_sup_1", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electrochemical 1,2-dialkylation of alkenes with a tertiary alkyl bromide (tBuBr) and a primary alkyl bromide via radical addition/cathodic reduction to a carbanion, followed by SN2 alkylation.", "mechanism_family": ["radical_cathodic", "radical_polar_crossover", "sacrificial_anode"], "electrochemical_role": "Cathodic reduction generates a tert-butyl radical from tBuBr; after radical addition to the alkene, the resulting benzylic/stabilized C-radical is further reduced at the cathode to a carbanion, which then undergoes SN2 with the primary alkyl bromide. Mg sacrificial anode balances charge.", "key_intermediates": [{"name": "tert-butyl radical from cathodic reduction of tBuBr", "smiles": "[CH0]([CH3])([CH3])[CH3]", "role": "reactive"}, {"name": "benzylic/stabilized C-radical after tBu addition to alkene", "smiles": null, "role": "transient"}, {"name": "benzylic/stabilized carbanion (from second cathodic reduction)", "smiles": null, "role": "reactive"}, {"name": "ring-opened homoallyl radical from cyclopropane radical clock 59", "smiles": null, "role": "transient"}], "electron_flow": "Cathode reduces tBuBr to tBu radical, which adds to the alkene; the resulting stabilized C-radical is reduced again at the cathode to a carbanion that performs SN2 on the primary alkyl bromide. The Mg anode is sacrificially oxidized to balance charge.", "rate_determining_step": null, "probe_reagents": [{"name": "(2-phenylcyclopropyl)ethylene radical clock 59", "smiles": "C(=C)C1CC1c1ccccc1", "purpose": "radical_clock", "observation": "Ring-opened product 60 (1-chloro-9,9-dimethyldec-6-en-4-yl)benzene isolated in 18% (7:1 E/Z), confirming a carbon radical intermediate after tBu addition."}, {"name": "D2O", "smiles": "[2H]O[2H]", "purpose": "intermediate_trap", "observation": "Product 61 obtained in 8% yield with 82% D incorporation at the benzylic position, consistent with a carbanion intermediate quenched by D2O."}], "evidence_types_used": ["radical_clock", "H/D_labeling", "product_isotope_distribution", "DFT"], "evidence_strength": "strong", "notes": "DFT (M06-2X/6-311+G(d,p), SMD(DME)) supports exergonic, mostly irreversible tBu• addition to π-conjugated alkenes (ΔG‡ ≈ 10.4–12.6 kcal/mol) and an SN2 mechanism for the second C–C bond formation with the primary alkyl bromide; the radical/anion-stabilizing nature of group Z dictates reactivity, with vinyl silanes/phosphines/sulfides being less reactive."}
